US06127548
2-Butyl-3-dimethylaminosulfonylim idazole4-carbaldehyde
1.25 g of 2-butyl-3-dimethylaminosulfonylimidazole was dissolved in 25 ml of tetrahydrofuran and cooled to -70° C., and 3.3 ml of n-butyllithium, 1.6 n in hexane, was added. After 1 hour, 0.64 ml of methyl formate was added, and the mixture was heated to room temperature and stirred for 17 hours at this temperature. The mixture was then concentrated, methylene chloride/water was added and the mixture was neutralized by adding 10 percent strength sulfuric acid. The organic phase was dried with Na2SO4 and concentrated by evaporation to give 1.35 g of crude product in the form of a yellow oil, which was purified by chromatography over methylene chloride/methanol/hexane 90:5:5 to give 0.99 g of product. The yield was 76 percent. Other data concerning the roduct was:

reactant | 2-butyl-3-dimethylaminosulfonylimidazole | 1.25 g | C(CCC)C1=NC=CN1S(=O)(=O)N(C)C | C9H17N3O2S
reactant | n-butyllithium | 3.3 ml | C(CCC)[Li]
reactant | methyl formate | 0.64 ml | C(=O)OC | C2H4O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-Butyl-3-dimethylaminosulfonylim idazole4-carbaldehyde | 0.99 g, yield was 76 percent | C(CCC)C1=NC=C(N1S(=O)(=O)N(C)C)C=O | C10H17N3O3S
